* C:\Users\newtonis\InformesTC\TP5\EJ4\UNIVERSAL.asc
R1 N005 N019 50k
r2a N014 N005 33k
R3 N006 N005 3k
r30 N015 N014 3k
R5 N016 N015 3k
r100 N015 N019 3k3
R7 N017 N019 3k3
r3j N017 N016 3k3
C1 N014 N005 1n
C§1n N006 N017 1n
V1 VCC+ 0 15
V2 0 VCC- 15
R2 N001 VIN 2472
R9 N007 N001 2076
R10 N002 N001 346
R§fj N008 N007 290
R12 VOUT N008 290
R13 N008 VIN 346
R14 N009 VIN 346
R15 N009 VOUT 346
C3 N007 N001 10nf
C4 N002 N009 10nf
R16 N003 N018 20K
R17 N010 N003 16.3k
R18 N004 N003 3k
R19 N011 N010 3k
R20 N012 N011 3k
R21 N011 N018 3k
R22 N013 N018 3k
r3b N013 N012 3k
C5 N010 N003 1n
C6 N004 N013 1n
V3 VIN 0 AC 0.001
XU1 0 N005 VCC+ VCC- N014 TL082
XU2 0 N015 VCC+ VCC- N016 TL082
XU6 0 N009 VCC+ VCC- N002 TL082
XU7 0 N003 VCC+ VCC- N010 TL082
XU8 0 N011 VCC+ VCC- N012 TL082
XU3 0 N017 VCC+ VCC- N006 TL082
XU4 0 N001 VCC+ VCC- N007 TL082
XU5 0 N008 VCC+ VCC- VOUT TL082
XU9 0 N013 VCC+ VCC- N004 TL082
.include C:\Users\newtonis\informesTC\TP5\EJ4\TL082\TL082.301
.ac dec 10000 10k 100k
.backanno
.end
