* C:\Users\newtonis\InformesTC\TP2\EJ1\EJ_1_simulaciones\EJ_1_simulaciones_Inversor.asc
R1 N001 INPUT 1.2k
R2 N001 OUTPUT 1.2k
R3 N001 0 1.2k
R4 OUTPUT 0 4.99k
V2 N002 0 15
V1 0 N003 15
V3 INPUT 0 SINE(0 1 20k 0 0 0 10) AC 0.1
XU3 0 N001 N002 N003 OUTPUT LM324/NS
.ac dec 100 1000 1000000
.lib C:\Users\newtonis\Downloads\mate5\LM324.txt
.backanno
.end
