* Copyright © Linear Technology Corp. 1998, 1999, 2000, 2001, 2002, 2003, 2004, 2005, 2006.  All rights reserved.


*

.subckt LM833 1 2 3 4 5

S1 5 3 N002 5 Q

S2 4 5 5 N002 Q

A1 2 1 0 0 0 0 N002 0 OTA G={Avol/Rout} ref={Vos} Iout={slew*Cout} Cout={Cout} en={en} enk={enk} in={in} ink={ink} incm={incm} incmk={incmk} Vhigh=1e308 Vlow=-1e308

C3 5 4 1p

C4 3 5 1p

R2 N002 4 {2*Rout} noiseless

R1 3 N002 {2*Rout} noiseless

R3 3 1 {2*Rin} noiseless

R4 3 2 {2*Rin} noiseless

R5 2 4 {2*Rin} noiseless

R6 1 4 {2*Rin} noiseless

G1 0 N002 4 N002 table(0 0 10 {2*slew*Cout})
G2 N002 0 N002 3 table(0 0 10 {2*slew*Cout})

.param Rout=37

.param Cout={Avol/GBW/2/pi/Rout}

.model Q SW(Ron=10 Roff=10Meg Vt=0 Vh=-.1 Vser={Rail} ilimit={Ilimit} noiseless level=2 epsilon={Rail/10})

.param Avol=316.2K GBW=15Meg Slew=5Meg ilimit=25m rail=0 Vos=0.15m
.param en=0 enk=0 in=0 ink=0 incm=0 incmk=0 Rin=175K

.ends LM833
