* C:\Users\joa-m\InformesTC\TP2\EJ3\LTSPICE\EJ3.asc
R1 N003 0 10
R2 N005 0 10
R3 N002 N005 1.5k
R4 N001 N004 100k
C1 N002 N001 100nf
XU1 N005 N003 +VCC -VCC N004 LF356/NS LF356/NS
XU2 0 N001 +VCC -VCC N002 LF356/NS LF356/NS
V1 +VCC 0 15
V2 0 -VCC 15
.inc "C:\Users\joa-m\InformesTC\TP2\EJ3\LTSPICE\models\TL081.301"
.inc "C:\Users\joa-m\InformesTC\TP2\EJ3\LTSPICE\models\LF356.mod"
.tran 0 1000m 0 0.1m
.inc "C:\Users\joa-m\InformesTC\TP2\EJ3\LTSPICE\models\TL082.301"
.backanno
.end
