* C:\Users\joa-m\InformesTC\TP3\EJ2\LTSPICE\gyrator_lowpass.asc
RL N001 N002 47
R N003 P001 200k
C1 N003 N002 10n
R1 N002 LP 12k
C2 LP 0 2.2n
V1 P001 0 SINE(0 1 1K) AC 1
V2 0 -VCC 15
V3 +VCC 0 15
XU1 N003 N001 +VCC -VCC N001 TL084 TL084
.ac dec 100 100 20Meg
.inc "C:\Users\joa-m\InformesTC\TP3\EJ2\TL084\TL084.301"
.backanno
.end
