* C:\Users\newtonis\InformesTC\TP5\EJ3\Simulaciones\SedraConPablomenos05_ari.asc
XU1 N006 N002 +VCC -VCC VOUT_LOWQ LM833#0 LM833#0
R§Ga1 0 N002 665
R§Gb N002 VOUT_LOWQ 1K
R§G41 N006 0 3.77k
R§G1 VOUT_LOWQ N009 5.6K
C3 N009 N006 240nf
C22 N009 N004 120nf
C21 N009 0 120nf
V1 N007 0 SINE(0 1 100K) AC 1
V2 +VCC 0 15
V3 0 -VCC 15
R§Ga2 N002 N004 1.26k
R§G42 N006 N004 8.97k
XU2 N005 N001 +VCC -VCC VOUT_HIGHQ LM833#0 LM833#0
R§Ga1_2 0 N001 3.3K
R§Gb_2 N001 VOUT_HIGHQ 99
R§G41_2 N005 0 4.3K
R§G1_2 VOUT_HIGHQ N008 180
C3_2 N008 N005 10.4606545nf
C22_2 N008 N003 6.46971nf
C21_2 N008 0 3.311061938nf
R§Ga2_2 N001 N003 4.7K
R§G42_2 N005 N003 15K
XU3 VOUT_LOWQ N003 +VCC -VCC N003 LM833#0 LM833#0
XU9 N007 N004 +VCC -VCC N004 LM833#0 LM833#0
.inc "C:\Users\newtonis\InformesTC\TP5\EJ3\Simulaciones\TL084\TL084.301"
* .tran 0 4ms 0 1ms
.inc "C:\Users\newtonis\InformesTC\TP5\EJ3\Simulaciones\LM833.lib"
.param tolb 0.10
.step param run 1 10 1
.tran 0 0.0025 0
.backanno
.end
