* C:\Users\ariel\InformesTC\TP3\EJ3\tp3 ej3\ej3 tp3 no ideal - Copy.asc
R3 N001 N003 12k
R4 N003 N005 10k
R6 N005 N006 10k
R7 N006 N007 12k
R1 N002 N001 1k
R2 Vout N002 10k
R8 N004 N007 1k
R9 N008 N004 10k
R5 N005 Vfeed 9k
V5 v1 0 SINE(0 0.1) AC 0.1
V1 vcc+ 0 10
V2 0 vcc- 10
XU1 N008 0 vcc+ vcc- Vfeed TL084
XU2 N004 N002 vcc+ vcc- Vout TL084
XU3 v1 N003 vcc+ vcc- N001 TL084
XU4 0 N006 vcc+ vcc- N007 TL084
.ac dec 100 100 10000meg
.inc opamp.sub
.inc C:\Users\ariel\InformesTC\TP3\EJ3\tp3 ej3\TL084.301
.backanno
.end
