* C:\Users\newtonis\InformesTC\TP3\EJ3\tp3 ej3\ej3 tp3 no ideal.asc
XU1 N003 v1 N001 opamp Aol=20000000K GBW=10000000000000000000000000000000000Meg
XU3 N002 N004 Vout opamp Aol=20000000K GBW=10000000000000000000000000000000000Meg
XU2 N006 v2 N007 opamp Aol=20000000K GBW=10000000000000000000000000000000000Meg
R3 N001 N003 1k
R4 N003 N005 3k3
R6 N005 N006 3k3
R7 N006 N007 1k
R1 N002 N001 1k
R2 Vout N002 100k
R8 N004 N007 1k
R9 N008 N004 100k
R5 N005 Vfeed 10
V3 v1 COMUN AC 1
V4 COMUN v2 AC 1
V5 COMUN 0 1
V1 vcc+ 0 10
V2 0 vcc- 10
XU4 0 N008 Vfeed opamp Aol=200K GBW=3Meg
.ac dec 100 100 100meg
.inc opamp.sub
.inc C:\Users\newtonis\InformesTC\TP3\EJ3\tp3 ej3\TL084.301
.backanno
.end
