* C:\Users\newtonis\InformesTC\TP3\EJ3\tp3 ej3\oscila.asc
R3 N002 N001 12k
R4 N001 N005 1k
R6 N005 N006 1k
R7 N006 N008 12k
R1 N003 N002 1k
R2 Vout N003 10k
R8 N004 N008 1k
R9 N009 N004 10k
R5 N005 Vfeed 5k
V1 +Vcc 0 10
V2 0 -Vcc 10
V3 v2 0 SINE(0 0.1 1000K) AC 0.1
XU1 N004 N003 +Vcc -Vcc Vout TL084
XU3 v2 N006 +Vcc -Vcc N008 TL084
XU4 v2 N001 +Vcc -Vcc N002 TL084
XU2 N009 0 +Vcc -Vcc Vfeed level.2 Avol=200k GBW=3Meg Slew=13Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
.inc opamp.sub
.inc C:\Users\newtonis\InformesTC\TP3\EJ3\tp3 ej3\TL084.301
.tran 0.000003
.lib UniversalOpamps2.sub
.backanno
.end
