* C:\Users\joa-m\InformesTC\TP7\Estabilidad\Completo\FiltroHP_N10_MC.asc
C1 N014 EZU1 5.6n
C2 EZU1 0 5.6n
R1 N014 0 {mc(1.79k,tola)}
R3 N005 fb {mc(1.449k,tola)}
R4 0 fb {mc(1k,tola)}
R6 ZEKI2 N005 {mc(1.79k,tola)}
C3 N022 N007 3.3n
C4 N007 N006 3.3n
R7 N022 0 {mc(2.47k,tola)}
R9 N008 N026 {mc(1.74k,tola)}
R10 0 N026 {mc(1.5k,tola)}
R12 N007 N008 {mc(2.47k,tola)}
C5 N023 N009 3.3n
C6 N009 N008 3.3n
R8 N023 0 {mc(1.86k,tola)}
R11 N010 N027 {mc(6.64k,tola)}
R13 0 N027 {mc(10k,tola)}
R14 N009 N010 {mc(1.86k,tola)}
C13 N031 N020 2.2n
C14 N020 N010 2.2n
R23 N031 0 {mc(2.12k,tola)}
R24 N021 N033 {mc(1.12k,tola)}
R25 0 N033 {mc(10k,tola)}
R26 N020 N021 {mc(2.12k,tola)}
V1 VI 0 AC 1
R19 VHP1 N001 15k
R20 N028 VI {mc(1k,tola)}
R21 N015 VHP1 {mc(12.22k,tola)}
C15 N016 N015 1n
C16 N002 N012 1n
R22 N012 N016 {mc(12.22k,tola)}
R27 N016 N028 13.5k
R28 N002 N001 15k
R15 VHP2 N003 10k
R16 N030 N017 {mc(2.2k,tola)}
R29 N018 VHP2 {mc(2.47k,tola)}
C7 N019 N018 4.7n
C8 N004 N013 4.7n
R30 N013 N019 {mc(2.47k,tola)}
R31 N019 N030 12.6k
R32 N004 N003 10k
XU5 N028 N001 +V -V VHP1 TL082
XU12 0 N015 +V -V N016 TL082
XU18 0 N012 +V -V N002 TL082
V2 +V 0 12
V3 0 -V 12
XU13 N029 N017 +V -V N017 TL082
XU4 N030 N003 +V -V VHP2 TL082
XU6 0 N018 +V -V N019 TL082
XU14 0 N013 +V -V N004 TL082
XU7 N024 N011 +V -V N011 TL082
XU15 N014 fb +V -V N005 TL082
XU1 N025 N006 +V -V N006 TL082
XU2 N022 N026 +V -V N008 TL082
XU3 N023 N027 +V -V N010 TL082
XU10 N031 N033 +V -V N021 TL082
XU11 N032 VO +V -V VO TL082
R2 N032 N021 21.2k
R5 0 N032 10k
R17 N029 VHP1 47k
R18 0 N029 47k
R33 N024 VHP2 47k
R34 0 N024 56k
R35 N025 NC_01 15k
R36 0 N025 10k
V4 EZU1 ZEKI2 0 AC 1
* Circuito 3 - Sallen Key Q = 1.96
* Circuito 4 - Sallen Key Q = 1.19
* Circuito 5 - Sallen Key Q = 0.76
* Circuito 1V2 - KHN Q = 11.96
* Circuito 2 - KHN Q = 3.65
.ac dec 1000 100 10Giga
.inc TL082.sub
* Circuito 6 - Sallen Key Q = 0.53
.param tola = 0
* Preset
* Preset
* Preset
* Preset
* Usar combinacion S + //
* Usar combinacion S + //
* 14.46
.backanno
.end
