* C:\Users\newtonis\InformesTC\TP7\Simulacion\Completo\FiltroHP_N10_MC.asc
C1 N015 N005 5.6n
C2 N005 N012 5.6n
R1 N015 0 {mc(1.79k,tola)}
R3 N006 N023 {mc(1.449k,tola)}
R4 0 N023 {mc(1k,tola)}
R6 N005 N006 {mc(1.79k,tola)}
C3 N024 N008 3.3n
C4 N008 N007 3.3n
R7 N024 0 {mc(2.47k,tola)}
R9 N009 N028 {mc(1.74k,tola)}
R10 0 N028 {mc(1.5k,tola)}
R12 N008 N009 {mc(2.47k,tola)}
C5 N025 N010 3.3n
C6 N010 N009 3.3n
R8 N025 0 {mc(1.86k,tola)}
R11 N011 N029 {mc(6.64k,tola)}
R13 0 N029 {mc(10k,tola)}
R14 N010 N011 {mc(1.86k,tola)}
C13 N033 N021 2.2n
C14 N021 N011 2.2n
R23 N033 0 {mc(2.12k,tola)}
R24 N022 N035 {mc(1.12k,tola)}
R25 0 N035 {mc(10k,tola)}
R26 N021 N022 {mc(2.12k,tola)}
V1 VI 0 AC 1
R19 VHP1 N001 15k
R20 N030 VI {mc(1k,tola)}
R21 N016 VHP1 {mc(12.22k,tola)}
C15 N017 N016 1n
C16 N002 N013 1n
R22 N013 N017 {mc(12.22k,tola)}
R27 N017 N030 13.5k
R28 N002 N001 15k
R15 VHP2 N003 10k
R16 N032 N018 {mc(2.2k,tola)}
R29 N019 VHP2 {mc(2.47k,tola)}
C7 N020 N019 4.7n
C8 N004 N014 4.7n
R30 N014 N020 {mc(2.47k,tola)}
R31 N020 N032 12.6k
R32 N004 N003 10k
XU5 N030 N001 +V -V VHP1 TL082
XU12 0 N016 +V -V N017 TL082
XU18 0 N013 +V -V N002 TL082
V2 +V 0 12
V3 0 -V 12
XU13 N031 N018 +V -V N018 TL082
XU4 N032 N003 +V -V VHP2 TL082
XU6 0 N019 +V -V N020 TL082
XU14 0 N014 +V -V N004 TL082
XU7 N026 N012 +V -V N012 TL082
XU15 N015 N023 +V -V N006 TL082
XU1 N027 N007 +V -V N007 TL082
XU2 N024 N028 +V -V N009 TL082
XU3 N025 N029 +V -V N011 TL082
XU10 N033 N035 +V -V N022 TL082
XU11 N034 VO +V -V VO TL082
R2 N034 N022 21.2k
R5 0 N034 10k
R17 N031 VHP1 47k
R18 0 N031 47k
R33 N026 VHP2 47k
R34 0 N026 56k
R35 N027 N006 15k
R36 0 N027 10k
* Circuito 3 - Sallen Key Q = 1.96
* Circuito 4 - Sallen Key Q = 1.19
* Circuito 5 - Sallen Key Q = 0.76
* Circuito 1V2 - KHN Q = 11.96
* Circuito 2 - KHN Q = 3.65
.ac dec 1000 1k 200K
.lib TL082.sub
* Circuito 6 - Sallen Key Q = 0.53
.param tola = 0
* Preset
* Preset
* Preset
* Preset
* Usar combinacion S + //
* Usar combinacion S + //
* 14.46
.backanno
.end
