* C:\Users\ariel\InformesTC\TP2\graficos\ejercicio4\spice\simulacion.asc
V1 0 N003 15
V2 N002 0 15
V3 INPUT 0 SINE(0 1 1K) AC 1 Rser=50
R76 OUTPUT N001 1.8k
XU1 0 N001 N002 N003 OUTPUT LM833#0
C1 INPUT N001 56nF
.inc C:\Users\ariel\InformesTC\TP2\graficos\ejercicio4\spice\LM833.lib
.ac dec 10 100 1000000000
.backanno
.end
